US07012062B2
Buffer A (1.5 M Tris-HCl Buffer, pH 8.80):
Dissolve 18.2 g of Tris base in about 80 ml of distilled water. Adjust the pH to 8.80 with HCl and yield 100 ml volume adding distilled water. Store the obtained Buffer A at 4° C.

reactant | Tris base | 18.2 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | HCl | Cl | ClH
solvent | water | about 80 ml | O | H2O
product | Tris-HCl | C(C(CO)(CO)N)O.Cl | InChI=1S/C4H11NO3.ClH/c5-4(1-6,2-7)3-8;/h6-8H,1-3,5H2;1H
